US05187055
95.4 g of dodecyl 4-methylthiophenyl ether was dissolved in 400 ml of acetic acid, and further a dilute sodium hydroxide solution containing 0.5 g of sodium tangstate was added thereto. The resulting solution was heated at 80° C. with stirring. To the solution 66.3 g of 35% hydrogen peroxide was dropwise added. After the conclution of the addition, the reaction mixture was stirred for 2-hours under heating, and, after cooling, water was added to filtrate a precipitated crude crystal. The crude crystal was recrystalized by using methanol to obtain 101.5 g of dodecyl 4-methylsulfonylphenyl ether crystal.

reactant | dodecyl 4-methylthiophenyl ether | 95.4 g | CSC1=CC=C(C=C1)OCCCCCCCCCCCC | C19H32OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 66.3 g | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | sodium | 0.5 g | [Na] | Na
product | dodecyl 4-methylsulfonylphenyl ether | 101.5 g | CS(=O)(=O)C1=CC=C(C=C1)OCCCCCCCCCCCC | C19H32O3S
